US07935716B2
213 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 79 mg of 3-amino-5-methylisooxazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 6.5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 141 mg of 1,6-dimethyl-4-hydroxy-N-(5-methylisooxazol-3-yl)-2-oxo-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 27) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 213 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 3-amino-5-methylisooxazole | 79 mg | NC1=NOC(=C1)C | C4H6N2O
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | 1,6-dimethyl-4-hydroxy-N-(5-methylisooxazol-3-yl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 141 mg | CN1C(C(=C(C=C1C)O)C(=O)NC1=NOC(=C1)C)=O | C12H13N3O4
